US05110956
5-Chloromethyl-6-isopropyl-1,3-benzodioxole
A mixture comprising 30 g of 37% formalin, 13 ml of concentrated hydrochloric acid and 100 ml of ethyl acetate was heated to 55° C., while passing hydrochloric acid gas through the mixture. A solution of 7.5 g of 5-isopropyl-1,3-benzodioxole in 20 ml of ethyl acetate was dropwise added to the resulting mixture and the obtained mixture was stirred as such for 2.5 hours and cooled, followed by the addition of benzene. The obtained mixture was washed with water, dried over anhydrous magnesium sulfate and filtered. The filtrate was concentrated to obtain 10.22 g of the title compound as a crude oil.

reactant | formalin | 30 g | C=O | CH2O
reactant | hydrochloric acid | 13 ml | Cl | ClH
reactant | 5-isopropyl-1,3-benzodioxole | 7.5 g | C(C)(C)C1=CC2=C(OCO2)C=C1 | C10H12O2
reactant | benzene | C1=CC=CC=C1 | C6H6
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 5-Chloromethyl-6-isopropyl-1,3-benzodioxole | 10.22 g | ClCC1=CC2=C(OCO2)C=C1C(C)C | C11H13ClO2
